US08729097B2
5-Nitro-8-tert-butoxycarbonyloxyquinoline (5c)
DMAP (122 mg, 1.0 mmol) and DIPEA (2 mL, 12 mmol) were added at room temperature to a stirred suspension of nitroxoline (1.9 g, 10 mmol) and di-tert-butyl dicarbonate (2.2 g, 10 mmol) in a 1:2 mixture of hexanes-DCM (80 mL). The mixture was stirred for 14 hours at room temperature, filtered using paper filter and the filtrate was concentrated in vacuum to provide a crude product as yellowish oil. The product was purified by flash column chromatography on silica gel (eluent: Hexanes/DCM=7:3).

reactant | DIPEA | 12 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | nitroxoline | 10 mmol, 1.9 g | C1=CC2=C(C=CC(=C2N=C1)O)[N+](=O)[O-] | C9H6N2O3
reactant | di-tert-butyl dicarbonate | 10 mmol, 2.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 1.0 mmol, 122 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 5-Nitro-8-tert-butoxycarbonyloxyquinoline | [N+](=O)([O-])C1=C2C=CC=NC2=C(C=C1)OC(=O)OC(C)(C)C | C14H14N2O5
